US05684034
A mixture of 195 mg (0.44 mmol) of 2-[[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid methyl ester and 2 mL of 2N NaOH in 10 mL of THF and 35 mL of ethanol was stirred for 17.5 hours, the mixture made acidic with 5N HCl and extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried (Na2SO4) and concentrated at reduced pressure. The residue was crystallized from methylene chloride to give 110 mg (59% yield) of 2-[[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid, mp, 173°-176° C.

reactant | 2-[[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid methyl ester | 0.44 mmol, 195 mg | COC(C1=C(C=CC=C1)COC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N)=O | C27H26N2O4
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-[[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid | 110 mg, 59% yield | NC(CC1=C(N(C2=CC=C(C=C12)OCC1=C(C(=O)O)C=CC=C1)CC1=CC=CC=C1)C)=O | C26H24N2O4
